US03975310
Cis-2,6,6-trimethyl-1-crotonoyl-2-cyclohexene
The acetylenic carbinol which was obtained as described above under paragraph b) was oxidised as described for its isomer in Example 18, paragraph c). Thus, 1.38 g. of carbinol gave 0.9 g. (66 %) of 2,6,6-trimethyl-1-tetrolyl-2-cyclohexene, b.p. 100°-105°/0.7 Torr. NMR spectrum (CCl4): 0.96 (6 H, d badly resolved), 1.52 (3 H, m), 2.0 (3 H, s), 5.57 (1 H, m), 2.66 (1 H, m) ppm (δ).

reactant | 2,6,6-trimethyl-1-tetrolyl-2-cyclohexene | CC=1C(C(CCC1)(C)C)C(C#CC)=O | C13H18O
solvent | carbinol | CO | CH4O
product | Cis-2,6,6-trimethyl-1-crotonoyl-2-cyclohexene | CC=1C(C(CCC1)(C)C)C(\C=C/C)=O | C13H20O
